US08912330B2
1-(benzyloxy)-6-(1-methyl-1H-indol-5-yl)-1H-pyrrolo[3,2-b]pyridine
The entitled compound was prepared from 1-(benzyloxy)-6-bromo-1H-pyrrolo[3,2-b]pyridine and (1-methyl-1H-indol-5-yl)boronic acid according to the procedure described in Example 1.

reactant | 1-(benzyloxy)-6-bromo-1H-pyrrolo[3,2-b]pyridine | C(C1=CC=CC=C1)ON1C=CC2=NC=C(C=C21)Br | C14H11BrN2O
reactant | (1-methyl-1H-indol-5-yl)boronic acid | CN1C=CC2=CC(=CC=C12)B(O)O | C9H10BNO2
product | 1-(benzyloxy)-6-(1-methyl-1H-indol-5-yl)-1H-pyrrolo[3,2-b]pyridine | C(C1=CC=CC=C1)ON1C=CC2=NC=C(C=C21)C=2C=C1C=CN(C1=CC2)C | C23H19N3O
